US06613942B1
4-Trifluoromethylsulfonyloxy Naphthaldehyde:
To a solution of 4-hydroxy naphthaldehyde (34.4 g, 0.20 mol) in dichloromethane (200 mL) and pyridine (19 mL, 18.58 g, 0.23 mol) was added dropwise at 0° C. trifluoromethane sulfonic anhydride (46.75 g, 0.16 mol). The mixture was stirred at 0° C. for 2 hr and at room temperature for 16 hr. It was poured into water (200 mL), and extracted with ether (3×100 mL). The combined organic extracts were washed with water (100 mL), 0.1 N hydrochloric acid (2×100 mL), water (100 mL), brine (100 mL), dried (MgSO4), and concentrated.

reactant | 4-hydroxy naphthaldehyde | 0.20 mol, 34.4 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | pyridine | 0.23 mol, 19 mL, 18.58 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane sulfonic anhydride | 0.16 mol, 46.75 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 200 mL | O | H2O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-Trifluoromethylsulfonyloxy Naphthaldehyde | FC(S(=O)(=O)OC1=CC=C(C2=CC=CC=C12)C=O)(F)F | C12H7F3O4S
